US08614239B2
Preparation of Intermediate N2-(4-Bromo-2-fluoro-phenyl)-3,4-difluoro-6-methoxy-benzene-1,2-diamine (I-6a)
Intermediate I-6a was prepared from (4-bromo-2-fluoro-phenyl)-(2,3-difluoro-5-methoxy-6-nitro-phenyl)-amine (I-4a: 16 g, 0.0425 mol), zinc powder (19.6 g, 0.298 mmol) and concentrated HCl (45 mL) using procedures analogous the preparation of Intermediate (I-5a) above to afford the product (85% yield). H1NMR (CDCl3, 300 MHz): δ 7.24 (dd, 1H), 7.06 (dt, 1H), 6.66-6.58 (m, 1H), 6.36 (t, 1H), 5.36 (s, 1H), 3.82 (s, 3H).

reactant | (4-bromo-2-fluoro-phenyl)-(2,3-difluoro-5-methoxy-6-nitro-phenyl)-amine | 0.0425 mol, 16 g | BrC1=CC(=C(C=C1)NC1=C(C(=CC(=C1[N+](=O)[O-])OC)F)F)F | C13H8BrF3N2O3
reactant | HCl | 45 mL | Cl | ClH
catalyst | zinc | 0.298 mmol, 19.6 g | [Zn] | Zn
product | N2-(4-Bromo-2-fluoro-phenyl)-3,4-difluoro-6-methoxy-benzene-1,2-diamine | 85% yield | BrC1=CC(=C(C=C1)NC=1C(=C(C=C(C1F)F)OC)N)F | C13H10BrF3N2O
